US08106055B2
2,4,6-Trichloro-N-methylbenzenesulfonamide (Intermediate D)
40% strength aq. methylamine soln. (36.0 g, 464 mmol) was added dropwise to a soln. of 2,4,6-trichorobenzenesulfonic acid chloride (10.0 g, 35.7 mmol) in 1,4-dioxane (60 ml) and the mixture was stirred at RT for 30 min. Water (500 ml) was then added, with vigorous stirring, whereupon a white precipitate formed, which was filtered out and dried over potassium hydroxide in a desiccator.

reactant | methylamine | CN | CH5N
reactant | 2,4,6-trichorobenzenesulfonic acid chloride | 35.7 mmol, 10.0 g | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
reactant | Water | 500 ml | O | H2O
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 2,4,6-Trichloro-N-methylbenzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC | C7H6Cl3NO2S
